US05539082
2-Amino-6-chloro-9-carboxymethylpurine
To a suspension of 2-amino-6-chloropurine (5.02 g; 29.6 mmol) and potassium carbonate (12.91 g; 93.5 mmol) in DMF (50 ml) was added bromoacetic acid (4.70 g; 22.8 mmol). The mixture was stirred vigorously for 20 h. under nitrogen. Water (150 ml) was added and the solution was filtered through Celite to give a clear yellow solution. The solution was acidified to a pH of 3 with 4N hydrochloric acid. The precipitate was filtered and dried, in vacuo, over sicapent. Yield (3.02 g; 44.8%). 1H-NMR (DMSO-d6): d=4.88 ppm (s,2H); 6.95 (s,2H); 8.10 (s,1H).

reactant | 2-amino-6-chloropurine | 29.6 mmol, 5.02 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | potassium carbonate | 93.5 mmol, 12.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid | 22.8 mmol, 4.70 g | BrCC(=O)O | C2H3BrO2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | Water | 150 ml | O | H2O
product | 2-Amino-6-chloro-9-carboxymethylpurine | NC1=NC(=C2N=CN(C2=N1)CC(=O)O)Cl | C7H6ClN5O2
